US05753679
2.0 g (0.01 mol) of 1-benzyl-4-hydroxypiperidine and 1.4 ml (0.01 mol) of triethylamine were dissolved in 100 ml of toluene and treated with 1.6 g (0.00966 mol) of 4-cyanobenzoyl chloride. The mixture was boiled at reflux for 2 hrs., the precipitate was filtered off and the filtrate was concentrated. The residue was chromatographed over silica gel with ethyl acetatelhexane (1:1). 1.9 g (61%) of 1-benzyl-piperidin-4-yl 4-cyano-benzoate were obtained as brownish crystals; m.p. 110°-111°.

reactant | 1-benzyl-4-hydroxypiperidine | 0.01 mol, 2.0 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | triethylamine | 0.01 mol, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | 4-cyanobenzoyl chloride | 0.00966 mol, 1.6 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-piperidin-4-yl 4-cyano-benzoate | 1.9 g, 61% | C(#N)C1=CC=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=C1 | C20H20N2O2
